US09102697B2
(S)-9-Hydroxy-10-methoxy-5-(4-methoxybenzyloxy)-1-(methoxymethoxy)-3-methyl-8-oxo-5,6,7,8-tetrahydroanthracene-2-carbaldehyde.
Potassium osmate dihydrate (29 mg, 0.079 mmol, 0.05 equiv) was added to an ice-cooled mixture of (S,E)-9-hydroxy-10-methoxy-4-(4-methoxybenzyloxy)-8-(methoxymethoxy)-6-methyl-7-(prop-1-enyl)-3,4-dihydroanthracen-1-one (780 mg, 1.58 mmol, 1 equiv), 2,6-lutidine (369 μL, 3.17 mmol, 2.0 equiv), and sodium periodate (1.36 g, 6.33 mmol, 4.0 equiv) in a mixture of tetrahydrofuran (20 mL) and water (10 mL). After 10 min, the cooling bath was removed and the reaction flask was allowed to warm to 23° C. After 1.5 h, the reaction mixture was partitioned between water (100 mL) and ethyl acetate (150 mL). The layers were separated. The organic layer was washed with aqueous sodium chloride solution (50 mL) and the washed solution was dried over sodium sulfate. The dried solution was filtered and the filtrate was concentrated. The residue was purified by flash-column chromatography (20% ethyl acetate-hexanes) to provide 498 mg of the product, (S)-9-hydroxy-10-methoxy-5-(4-methoxybenzyloxy)-1-(methoxymethoxy)-3-methyl-8-oxo-5,6,7,8-tetrahydroanthracene-2-carbaldehyde, as an orange foam (65%). 1H NMR (500 MHz, CDCl3): 15.17 (s, 1H), 10.74 (s, 1H), 7.66 (s, 1H), 7.27 (d, 2H, J=8.5 Hz), 6.86 (d, 2H, J=8.6 Hz), 5,30-5.18 (m, 3H), 4.63 (d, 1H, J=11.1 Hz), 4.52 (d, 1H, J=12.0 Hz), 3.86 (s, 3H), 3.79 (s, 3H), 3.62 (s, 3H), 3.22 (m, 1H), 2.75 (s, 3H), 2.63 (m, 1H), 2.54 (m, 1H), 2.08 (m, 1H). 13C NMR (125 MHz, CDCl3): 204.9, 193.2, 163.2, 161.7, 159.2, 144.4, 141.7, 137.0, 130.1, 129.4, 120.7, 117.9, 113.8, 110.0, 102.8, 70.4, 67.2, 62.9, 58.3, 55.2, 32.3, 26.3, 22.2. FTIR, cm−1 (thin film): 2936 (m), 2907 (m), 1684 (s), 1611 (s), 1377 (s), 1246 (s). HRMS (ESI): Calcd for (C27H28O8+K)+:519.1416; Found 519.1368. TLC (20% ethyl acetate-hexanes): Rf=0.17 (CAM)

reactant | (S,E)-9-hydroxy-10-methoxy-4-(4-methoxybenzyloxy)-8-(methoxymethoxy)-6-methyl-7-(prop-1-enyl)-3,4-dihydroanthracen-1-one | 1.58 mmol, 780 mg, 1 equiv | OC=1C2=C(C(=C(C=C2C(=C2[C@H](CCC(C12)=O)OCC1=CC=C(C=C1)OC)OC)C)\C=C\C)OCOC | C29H32O7
reactant | 2,6-lutidine | 3.17 mmol, 369 μL, 2.0 equiv | N1=C(C=CC=C1C)C | C7H9N
reactant | sodium periodate | 6.33 mmol, 1.36 g, 4.0 equiv | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (S)-9-Hydroxy-10-methoxy-5-(4-methoxybenzyloxy)-1-(methoxymethoxy)-3-methyl-8-oxo-5,6,7,8-tetrahydroanthracene-2-carbaldehyde | 498 mg | OC=1C=2C(CC[C@@H](C2C(=C2C=C(C(=C(C12)OCOC)C=O)C)OC)OCC1=CC=C(C=C1)OC)=O | C27H28O8
